US07326791B2
N-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)methyl-3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from C-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)methylamine, TBTU, diisopropylethylamine, and 3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid in tetrahydrofuran. Purification is effected by chromatography on silica gel (gradient: dichloromethane/ethanol=100:0□80:20). Yield: 240 mg (96%); Rf value: 0.68 (silica gel; dichloromethane/ethanol=8:2+2% ammonia solution); C20H18BrN5O2 (440.30); mass spectrum: (M+H)+=440/442 (bromine isotope).

reactant | C-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)methylamine | BrC=1C=C2C(=NC1)NC(=N2)CN | C7H7BrN4
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CC=CC1 | C13H13NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)methyl-3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide | BrC=1C=C2C(=NC1)NC(=N2)CNC(C2=CC(=C(C=C2)C(=O)N2CC=CC2)C)=O | C20H18BrN5O2
